US06387919B1
2-Oxo-3-[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid (2-methoxyethyl)-amide (Z-isomer)
The title compound was prepared from 2-oxo-3[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid pentafluorophenyl ester and 2-methoxyethylamine according to Procedure K: mp>230° C.; Anal. Calcd for C18H19N5O5S: C, 51.79; H, 4.59; N, 16.78. Found: C, 51.69; H, 4.54; N, 16.72.

reactant | 2-oxo-3[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid pentafluorophenyl ester | FC1=C(C(=C(C(=C1OC(=O)C=1C=C2C(C(NC2=CC1)=O)=NNC1=CC=C(C=C1)S(N)(=O)=O)F)F)F)F | C21H11F5N4O5S
reactant | 2-methoxyethylamine | COCCN | C3H9NO
product | 2-Oxo-3-[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid (2-methoxyethyl)-amide | COCCNC(=O)C=1C=C2C(C(NC2=CC1)=O)=NNC1=CC=C(C=C1)S(N)(=O)=O | C18H19N5O5S
